US04197309
4-[(2-thienyl)hydroxyiminomethyl]-2,6-dimethyl-phenoxyacetic acid
4 g of 4-(2-thenoyl)-2,6-dimethyl-phenoxyacetic acid and 4 g of hydroxylamine hydrochloride were dissolved in 30 ml of pyridine and the mixture was kept for 3 hours at reflux. The mixture was then poured into an N aqueous solution of hydrochloric acid and the oxime extracted in ethyl ether. The remaining solid, after evaporation of the solvent, was a mixture of the two isomers of the oxime which melted at 152° C.

reactant | 4-(2-thenoyl)-2,6-dimethyl-phenoxyacetic acid | 4 g | C1(=CC=CS1)C(=O)C1=CC(=C(OCC(=O)O)C(=C1)C)C | C15H14O4S
reactant | hydroxylamine hydrochloride | 4 g | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-[(2-thienyl)hydroxyiminomethyl]-2,6-dimethyl-phenoxyacetic acid | S1C(=CC=C1)C(C1=CC(=C(OCC(=O)O)C(=C1)C)C)=NO | C15H15NO4S
